US07166613B2
(S)-1-[2-(tert-Butoxycarbonylamino)propyl]-1H-pyrrolo[2,3-f]quinoline
A mixture of (S)-1-(2-azidopropyl)-1H-pyrrolo[2,3-f]quinoline (14.9 g, 59.4 mmol), ethanol (200 mL) and platinum(IV)oxide (0.5 g) was stirred under an hydrogen atmosphere for 36 h. The mixture was filtered through celite®, washing with diethyl ether (2×200 mL) and the filtrate was concentrated in vacuo to give a pale green oil. Water (60 mL) and 2-methyl-2-propanol (60 mL) were added, the mixture was stirred at room temperature for 10 min then freshly crushed sodium hydroxide (9.4 g, 0.23 mol) was added and the mixture was stirred for a further 5 min. Di-tert-butyl dicarbonate (12.8 g, 58.6 mmol) was added and the mixture was left to stir at room temperature for 16 h. Water (100 mL) was added and the mixture was extracted with ethyl acetate (3×30 mL), the extracts were combined washed with brine (2×), dried (MgSO4), filtered, concentrated in vacuo and purified by column chromatography [SiO2; ethyl acetate-heptane (1:8)] to give the title compound (10.3 g, 53%) as a pale brown solid: m.p. 185° C.; δH (400 MHz, CDCl3) 1.13 (3H, s), 1.44 (9H, s), 4.16–4.27 (2H, m), 4.49–4.56 (1H, m), 4.91–5.01 (1H, m), 6.65–6.66 (1H, d, J 1 Hz), 7.12–7.13 (1H, d, J 2.5 Hz), 7.48–7.54 (1H, m), 7.80–7.82 (1H, d, J 9 Hz), 7.91–7.94 (1H, d, J 9 Hz), 8.83–8.86 (1H, m) and 9.05 (1H, brs).

reactant | (S)-1-(2-azidopropyl)-1H-pyrrolo[2,3-f]quinoline | 59.4 mmol, 14.9 g | N(=[N+]=[N-])[C@H](CN1C=CC=2C1=C1C=CC=NC1=CC2)C | C14H13N5
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 0.23 mol, 9.4 g | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 58.6 mmol, 12.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | platinum(IV)oxide | 0.5 g | [Pt](=O)=O
solvent | Water | 100 mL | O | H2O
solvent | 2-methyl-2-propanol | 60 mL | CC(C)(C)O | C4H10O
solvent | Water | 60 mL | O | H2O
product | (S)-1-[2-(tert-Butoxycarbonylamino)propyl]-1H-pyrrolo[2,3-f]quinoline | 10.3 g, 53% | C(C)(C)(C)OC(=O)N[C@H](CN1C=CC=2C1=C1C=CC=NC1=CC2)C | C19H23N3O2
